US07745475B2
3-{[4-(Azetidin-1-ylcarbonyl)-2-fluorophenyl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
A mixture of 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methylpyrazin-2-yl)benzamide (3.6 g, 5.96 mmol) in methanol (60 mL) and 1M hydrochloric acid (60 mL) was stirred for 30 mins at RT. The volatiles were removed in vacuo and the residue adjusted to pH6 with saturated aqueous sodium bicarbonate solution then extracted into ethyl acetate (3×100 mL). The combined organic layers were washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and the solvents removed in vacuo. 10% Methanol in ethyl acetate was added and a white solid filtered off. This was crystallised from ethyl acetate/methanol to give the desired compound. (1.24 g), mpt 172° C. The data was in agreement with samples prepared through alternative routes.

reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methylpyrazin-2-yl)benzamide | 5.96 mmol, 3.6 g | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC=C(N=C3)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C31H39FN4O5Si
solvent | methanol | 60 mL | CO | CH4O
solvent | hydrochloric acid | 1M, 60 mL | Cl | ClH
product | 3-{[4-(Azetidin-1-ylcarbonyl)-2-fluorophenyl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | N1(CCC1)C(=O)C1=CC(=C(C=C1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO)C)F | C25H25FN4O5
